US07563797B2
Sodium ethoxide (2 eq, 83.8 mmol, 5.7 g) was added in one portion to a solution of guanidine hydrochloride (4 g, 41.9 mmol) in absolute ethanol (100 ml) and the resulting mixture was stirred at ambient temperature for 1 hour. A dichloromethane solution of 3-methoxy-2-(2,2,2-trifluoro-acetyl)-acrylic acid ethyl ester was then added and the mixture was stirred at ambient temperature for an additional 20 hours. The solvent was then removed by evaporation, water was added to the residue, and the mixture was stirred vigorously for 2 hours then allowed to stand at room temperature. The resulting solid was isolated by filtration, washed with water then dried in vacuo to afford 6.10 g (62% yield) of 2-amino-4-trifluoromethyl-pyrimidine-5-carboxylic acid ethyl ester. m/z (M+H)=236.2.

reactant | Sodium ethoxide | 83.8 mmol, 5.7 g, 2 eq | [O-]CC.[Na+]
reactant | guanidine hydrochloride | 41.9 mmol, 4 g | Cl.NC(=N)N
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | 3-methoxy-2-(2,2,2-trifluoro-acetyl)-acrylic acid ethyl ester | C(C)OC(C(=COC)C(C(F)(F)F)=O)=O | C8H9F3O4
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-amino-4-trifluoromethyl-pyrimidine-5-carboxylic acid ethyl ester | 6.10 g, 62% yield | C(C)OC(=O)C=1C(=NC(=NC1)N)C(F)(F)F | C8H8F3N3O2
